US06028096
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)-4-iodopyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)pyrazole (4.17 g) in acetonitrile (20 ml) at room temperature was added N-iodosuccinimide (2.79 g). After 15 minutes the mixture was evaporated to dryness and the residual orange solid was taken up in dichloromethane. The solution was washed with water, then brine, then dried (Na2SO4) and evaporated to provide the title compound as a pale orange solid, m.p. 149.5-150.0° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)pyrazole | 4.17 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)OC(F)(F)F)Cl)C#N | C11H5Cl2F3N4O
reactant | N-iodosuccinimide | 2.79 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethoxyphenyl)-4-iodopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)OC(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4O
